US04261999
5-Isothiocyanato-3-methylisoquinoline (5.1 g) is added to a solution of (RS)-6-hydroxymethyl-4,5,6,7-tetrahydrothieno[3,2-c]pyridine (3.4 g) in absolute ethanol (55 cc). After 15 hours at a temperature of about 20° C., the resulting crystals are filtered off, washed with diisopropyl ether and then dried at 60° C. under reduced pressure (0.1 mm Hg; 0.013 kPa). (RS)-6-Hydroxymethyl-5-[(3-methylisoquinol-5-yl)thiocarbamoyl]-4,5,6,7-tetrahydrothieno[3,2-c]pyridine (6.9 g), melting at 190° C., is thus obtained.

reactant | 5-Isothiocyanato-3-methylisoquinoline | 5.1 g | N(=C=S)C1=C2C=C(N=CC2=CC=C1)C | C11H8N2S
reactant | (RS)-6-hydroxymethyl-4,5,6,7-tetrahydrothieno[3,2-c]pyridine | 3.4 g | OCC1CC2=C(CN1)C=CS2 | C8H11NOS
solvent | ethanol | 55 cc | C(C)O | C2H6O
product | (RS)-6-Hydroxymethyl-5-[(3-methylisoquinol-5-yl)thiocarbamoyl]-4,5,6,7-tetrahydrothieno[3,2-c]pyridine | 6.9 g | OCC1CC2=C(CN1C(NC1=C3C=C(N=CC3=CC=C1)C)=S)C=CS2 | C19H19N3OS2
